US07678801B2
118b) 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide
To the compound 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid (40 mg, 0.074 mmol) in dichloromethane (2 mL) were added HBTU (30 mg, 0.079 mmol) and isopropylamine (0.032 mL, 0.37 mmol). The mixture was stirred at r.t. overnight. Solvent was removed by rotovap. Separation by chromatography (90% methylene chloride/7% MeOH/3% ammonia) afforded the title compound (22 mg, 51%). LC-MS m/z 563 (M+H)+.

reactant | 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid | 0.074 mmol, 40 mg | C(C)N(CCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C=2C=C(C(=O)O)C=CC2C)CC | C28H29F2N5O3
reactant | HBTU | 0.079 mmol, 30 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | isopropylamine | 0.37 mmol, 0.032 mL | C(C)(C)N | C3H9N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide | 22 mg, 51% | C(C)N(CCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C=2C=C(C(=O)NC(C)C)C=CC2C)CC | C31H36F2N6O2
